US07622605B2
6-Cyclopentyl-6-{2-[3-ethyl-4-(1,3-oxazol-2-yl)phenyl]ethyl}-4-hydroxy-3-[(6-methyl[1,2,4]triazolo[1,5-a]pyrimidin-2-yl)methyl]-5,6-dihydro-2H-pyran-2-one
The title compound was prepared analogously to example A(1) where 6-cyclopentyl-6-{2-[3-ethyl-4-(1,3-oxazol-2-yl)phenyl]ethyl}dihydro-2H-pyran-2,4(3H)-dione (Example A(135)) was substituted in place of 6-cyclopentyl-6-[2-(5-ethyl-4-hydroxy-2-propoxy-phenyl)-ethyl]-dihydro-pyran-2,4-dione in that example and 6-methyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde was substituted in place of 5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde. Yield (58 mg, 11%). 1H NMR (300 MHz, CDCl3): δ ppm 1.19 (t, J=7.44 Hz, 3H) 1.40 (d, J=4.33 Hz, 1H) 1.53-1.67 (m, 8H) 2.01-2.10 (m, 2H) 2.39 (s, 1H) 2.45-2.49 (m, 3H) 2.54-2.64 (m, 1H) 2.71 (dd, J=11.87, 5.46 Hz, 2H) 2.76-2.85 (m, 1H) 3.01 (q, J=7.47 Hz, 2H) 4.10 (s, 2H) 7.05-7.11 (m, 2H) 7.29 (s, 1H) 7.73 (s, 1H) 7.78 (d, J=7.91 Hz, 1H) 8.61 (s, 1H) 8.68 (d, J=2.07 Hz, 1H). MS (ESI): 528 (M+H)+.

reactant | 6-cyclopentyl-6-{2-[3-ethyl-4-(1,3-oxazol-2-yl)phenyl]ethyl}dihydro-2H-pyran-2,4(3H)-dione | C1(CCCC1)C1(CC(CC(O1)=O)=O)CCC1=CC(=C(C=C1)C=1OC=CN1)CC | C23H27NO4
reactant | 6-cyclopentyl-6-[2-(5-ethyl-4-hydroxy-2-propoxy-phenyl)-ethyl]-dihydro-pyran-2,4-dione | C1(CCCC1)C1(CC(CC(O1)=O)=O)CCC1=C(C=C(C(=C1)CC)O)OCCC | C23H32O5
reactant | 6-methyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde | CC=1C=NC=2N(C1)N=C(N2)C=O | C7H6N4O
reactant | 5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde | CC1=NC=2N(C(=C1)C)N=C(N2)C=O | C8H8N4O
product | 6-Cyclopentyl-6-{2-[3-ethyl-4-(1,3-oxazol-2-yl)phenyl]ethyl}-4-hydroxy-3-[(6-methyl[1,2,4]triazolo[1,5-a]pyrimidin-2-yl)methyl]-5,6-dihydro-2H-pyran-2-one | C1(CCCC1)C1(CC(=C(C(O1)=O)CC1=NN2C(N=CC(=C2)C)=N1)O)CCC1=CC(=C(C=C1)C=1OC=CN1)CC | C30H33N5O4
